US09334263B2
To a solution of tert-butyl 4-(5-bromo-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate (20 g, 56 mmol) and Pd(Amphos)Cl2 (4.0 g 5.6 mmol) in THF (200 mL, dry) was added benzylzinc(II) bromide (168 mL, 168 mmol) under argon and the mixture was stirred at 60° C. overnight. The reaction mixture was diluted with ethyl acetate (1.5 L), filtered and the filtrate was concentrated under reduced pressure. The residue was purified by silica gel chromatography (petroleum ether/ethyl acetate=1:1 to 100% ethyl acetate) to give 5-benzyl-2-(piperazin-1-yl)pyrimidin-4-ol (8.2 g, 54%) as a pale yellow solid. MS (ES+) C15H18N4O requires: 270, found: 271 [M+H]+.

reactant | tert-butyl 4-(5-bromo-4-hydroxypyrimidin-2-yl)piperazine-1-carboxylate | 56 mmol, 20 g | BrC=1C(=NC(=NC1)N1CCN(CC1)C(=O)OC(C)(C)C)O | C13H19BrN4O3
reactant | benzylzinc(II) bromide | 168 mmol, 168 mL | [Br-].C(C1=CC=CC=C1)[Zn+]
solvent | THF | 200 mL | C1CCOC1 | C4H8O
solvent | ethyl acetate | 1.5 L | C(C)(=O)OCC | C4H8O2
catalyst | Pd(Amphos)Cl2 | 5.6 mmol, 4.0 g | CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.CC(C)(C)P(C1=CC=C(C=C1)N(C)C)C(C)(C)C.Cl[Pd]Cl
product | 5-benzyl-2-(piperazin-1-yl)pyrimidin-4-ol | 8.2 g, 54% | C(C1=CC=CC=C1)C=1C(=NC(=NC1)N1CCNCC1)O | C15H18N4O
